US06353117B1
A solution of 4-(aminosulphonyl)phenylhydrazine chlorohydrate (0.82 g, 3.69 mmoles) and (E)-1,1,1-trifluoro-4-(4-methylphenyl)-3-butene-2-one (0.79 g, 3.69 mmoles) in 15 ml of acetic acid is refluxed for 3 hours under a nitrogen atmosphere. It is cooled, poured over water and extracted with AcOEt. The organic solution is washed with water, dried over anhydrous sodium sulphate and evaporated to dryness under vacuum. The crude product thus obtained is crystallised from EtOH-petrol ether to give 1-(4-aminosulphonylphenyl)-4,5-dihydro-5-(4-methylphenyl)-3-trifluoromethyl-1H-pyrazole (0.65 g, yield: 45%).

reactant | 4-(aminosulphonyl)phenylhydrazine | NS(=O)(=O)C1=CC=C(C=C1)NN | C6H9N3O2S
reactant | (E)-1,1,1-trifluoro-4-(4-methylphenyl)-3-butene-2-one | 3.69 mmoles, 0.79 g | FC(C(\C=C\C1=CC=C(C=C1)C)=O)(F)F | C11H9F3O
reactant | water | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1-(4-aminosulphonylphenyl)-4,5-dihydro-5-(4-methylphenyl)-3-trifluoromethyl-1H-pyrazole | 0.65 g, yield: 45% | NS(=O)(=O)C1=CC=C(C=C1)N1N=C(CC1C1=CC=C(C=C1)C)C(F)(F)F | C17H16F3N3O2S
